US05717053
In a four-necked flask equipped with a fractionator and a thermometer were placed 66.5 g (0.25 mole) of 2,6-bis(hydroxymethyl)-4-t-octylphenol (purity: 99.1%) synthesized in the same manner as in the former half of Example 8, 82.5 g (0.75 mole) of resorcin and 100 ml of toluene, and 36% hydrochloric acid was added thereto so that the pH became 4, after which the temperature was elevated to 112° C. and then kept at that temperature for two hours while the water formed and toluene were removed by azeotropic distillation. The temperature was elevated to 150° C. and the reaction mixture was concentrated at a reduced pressure of 50 mmHg for one hour and then cooled to 80° C., after which 200 ml of toluene and 200 ml of water were added thereto to wash the mixture. The mixture was then allowed to stand to separate it into two layers. The upper layer (toluene solution) was transferred to a still, and then heated to 180° C., at which temperature the toluene solution was distilled at 3 mmHg for two hours to remove the toluene and unreacted resorcin, thereby obtaining a resorcin p-t-octylphenol resin [I].

reactant | 2,6-bis(hydroxymethyl)-4-t-octylphenol | 0.25 mole, 66.5 g | OCC1=C(C(=CC(=C1)C(C)(C)CC(C)(C)C)CO)O | C16H26O3
reactant | resorcin | 0.75 mole, 82.5 g | C1(O)=CC(O)=CC=C1 | C6H6O2
reactant | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
reactant | hydrochloric acid | Cl | ClH
solvent | water | O | H2O
product | resorcin p-t-octylphenol | C(C)(C)(CC(C)(C)C)C1=CC=C(C=C1)O.C1(O)=CC(O)=CC=C1 | InChI=1S/C14H22O.C6H6O2/c1-13(2,3)10-14(4,5)11-6-8-12(15)9-7-11;7-5-2-1-3-6(8)4-5/h6-9,15H,10H2,1-5H3;1-4,7-8H
